US05393875
9.96 ml (124.5 mmol) of cyclopropyl bromide in 100 ml of ether were added dropwise within 30minutes to 3.03 g (124.5 mmol) of magnesium in 10 ml of abs. ether under slight reflux and the mixture was subsequently heated to reflux for 2 1/2 hours. Subsequently, 6.25 g (22.63 mmol) of tert-butyl [(1S,2R)-1-benzyl-2-cyano-2-hydroxyethyl]carbamate (EPA 0,266,950) were added dropwise thereto under reflux within 5 minutes and the mixture was heated to reflux for a further 2 1/2 hours. Finally, the mixture was left to cool (10°), 10% citric acid was added dropwise thereto and the mixture was extracted twice with ether. The organic phase was washed with water and saturated sodium chloride solution, dried over magnesium sulphate, filtered and evaporated under reduced pressure. Chromatography on silica gel using a 9:1 mixture of toluene and ethyl acetate yielded tert-butyl [(1S,2R)-1-benzyl-2-(cyclopropylcarbonyl)-2-hydroxyethyl]carbamate as a pale yellow solid, MS: 246 (M-C3H9O)+.

reactant | cyclopropyl bromide | 124.5 mmol, 9.96 ml | C1(CC1)Br | C3H5Br
reactant | magnesium | 124.5 mmol | [Mg] | Mg
reactant | tert-butyl [(1S,2R)-1-benzyl-2-cyano-2-hydroxyethyl]carbamate | 22.63 mmol, 6.25 g | C(C1=CC=CC=C1)[C@@H]([C@@H](O)C#N)NC(OC(C)(C)C)=O | C15H20N2O3
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | ether | 100 ml | CCOCC | C4H10O
product | tert-butyl [(1S,2R)-1-benzyl-2-(cyclopropylcarbonyl)-2-hydroxyethyl]carbamate | C(C1=CC=CC=C1)[C@@H]([C@@H](O)C(=O)C1CC1)NC(OC(C)(C)C)=O | C18H25NO4
